US04753933
A suspension of 2-amino-7-chloro-1,8-naphthyridine (89.75 g) in 3-dimethylamino-1-propanol (236 cc) is preheated to approximately 30° C. Potassium hydroxide pellets (85% pure; 65.8 g) are then introduced gradually. The reaction is exothermic, and the temperature rises to 80° C. at the end of the addition. The reaction mixture is then heated for a further 30 minutes to 90° C., allowed to cool to 60° C. and then poured into water (1500 cc) in the presence of methylene chloride (500 cc). The decanted organic extracts are washed with water (2×200 cc), dried over magnesium sulphate and concentrated to dryness at 40° C. under reduced pressure (4 kPa). The product obtained in the form of an oil is crystallized by stirring in hexane (300 cc). The crystallized solid is then separated by filtration, washed with hexane and dried at 20° C. at reduced pressure (0.07 kPa). 2-Amino-7-(3-dimethylaminopropoxy)-1,8-naphthyridine (109 g), m.p. 88° C., is obtained.

reactant | 2-amino-7-chloro-1,8-naphthyridine | 89.75 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | Potassium hydroxide | [OH-].[K+]
reactant | water | 1500 cc | O | H2O
reactant | methylene chloride | 500 cc | C(Cl)Cl | CH2Cl2
reactant | 3-dimethylamino-1-propanol | 236 cc | CN(CCCO)C | C5H13NO
product | 2-Amino-7-(3-dimethylaminopropoxy)-1,8-naphthyridine | 109 g | NC1=NC2=NC(=CC=C2C=C1)OCCCN(C)C | C13H18N4O
